US08877782B2
6-(5-Methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-N-(2,2,2-trifluoro-ethyl)-nicotinamide
As described for example 272, 6-(5-methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (97.6 mg, 0.3 mmol) was converted, using 2,2,2-trifluoroethylamine instead of 4-aminotetrahydropyran, to the title compound (115 mg, 98%) which was obtained as a white solid. MS: m/e=393.4 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.3 mmol, 97.6 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=NC=CC=C1)=O | C17H15N3O4
reactant | 2,2,2-trifluoroethylamine | FC(CN)(F)F | C2H4F3N
product | 6-(5-Methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-N-(2,2,2-trifluoro-ethyl)-nicotinamide | 115 mg, 98% | CC1=C(C(=NO1)C1=NC=CC=C1)COC1=NC=C(C(=O)NCC(F)(F)F)C=C1 | C18H15F3N4O3
